US06727264B1
3-CHLOROPROPYL 3-FLUOROPHENYL SULFIDE:
Prepared by Procedure R and Scheme Z using 3-fluorobenzenethiol and 1-bromo-3-chloropropane.

reactant | 3-fluorobenzenethiol | FC=1C=C(C=CC1)S | C6H5FS
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
product | 3-CHLOROPROPYL 3-FLUOROPHENYL SULFIDE | FC=1C=C(C=CC1)SCCCCl | C9H10ClFS
